US04788199
Carbonyldiimidazole (1.65 g) is added to a stirred solution of dextrorotatory α-methyl-2-phenyl-4-quinazolinepropanoic acid (2 g) in tetrahydrofuran (20 cc). The mixture is stirred for about 20 minutes until the evolution of gas has ceased, and then for a further hour, and diethylamine (1.05 cc) is added. The mixture is stirred for 5 days at room temperature (approximately 20° C.) and then heated under reflux for two hours. The solvent is evaporated off under reduced pressure and the residue taken up with ethyl ether (100 cc). The organic phase is washed with water (2×10 cc), then with normal hydrochloric acid solution (2×5 cc), then with normal sodium hydroxide solution (2×5 cc) and finally with water (2×5 cc). It is then dried over magnesium sulphate and evaporated under reduced pressure. The residue is recrystallized twice in isopropyl ether. Laevorotatory N,N-diethyl-α-methyl-2phenyl-4-quinazolinepropanamide (1.1 g , m.p. 93.5° C., is thereby isolated; αD at 0.5% in EtOH at 23° C.=-17.9°±2°.

reactant | Carbonyldiimidazole | 1.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | α-methyl-2-phenyl-4-quinazolinepropanoic acid | 2 g | CC(C(=O)O)CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H16N2O2
reactant | diethylamine | 1.05 cc | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | N,N-diethyl-α-methyl-2phenyl-4-quinazolinepropanamide | C(C)N(C(C(CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1)C)=O)CC | C22H25N3O
